US08912186B2
Neat N-(2-hydroxy-5-chlorophenyl)-3-(4-chlorophenyl)glutaramic acid (1.5 g) was kept under vacuum (membrane pump) and placed in a preheated (230° C.) oil bath. The resulting melt was stirred at this temperature under vacuum for 1 h. The melt was cooled and close to the point of solidification diethyl ether was added to give a cloudy solution. The traces of solid were removed by filtration and the filtrate was shaken with 20% NaOH solution (20 ml). The sodium salt of the product separates as ether and water insoluble brownish oil. The neat oil is isolated and treated with 10% HCl (2 ml). The desired product separates as slowly solidifying oil which is triturated with methanol/water 1:2 and with acetone to afford 0.16 g of 4-(5-chloro-2-benzoxazolyl)-3-(4-chlorophenyl)butanoic acid as almost colourless solid.

reactant | N-(2-hydroxy-5-chlorophenyl)-3-(4-chlorophenyl)glutaramic acid | 1.5 g | OC1=C(C=C(C=C1)Cl)NC(CC(CC(=O)O)C1=CC=C(C=C1)Cl)=O | C17H15Cl2NO4
reactant | HCl | 2 ml | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(5-chloro-2-benzoxazolyl)-3-(4-chlorophenyl)butanoic acid | 0.16 g | ClC=1C=CC2=C(N=C(O2)CC(CC(=O)O)C2=CC=C(C=C2)Cl)C1 | C17H13Cl2NO3
